US04249029
Cis-tetracos-9-ene
Example 8 is repeated, using ethyl-lithium prepared from 156 grams of ethyl iodide.

reactant | ethyl-lithium | C(C)[Li]
reactant | ethyl iodide | 156 grams | C(C)I | C2H5I
product | Cis-tetracos-9-ene | CCCCCCCC\C=C/CCCCCCCCCCCCCC | C24H48
